### PR TITLE
feat: lemmas showing properties of ofDerivation added

### PR DESCRIPTION
**Pull request by Ljon4ik4**
Given an `R`-Lie algebra `L` and a commutative `R`-algebra `A`, there is a Lie algebra structure on `(A ⊗[R] L)`.
A derivation of `A` induces a Lie derivation of  `(A ⊗[R] L)`, and one obtains a Lie algebra map
```
ofDerivation : Derivation R A A →ₗ⁅R⁆ LieDerivation R (A ⊗[R] L) (A ⊗[R] L)
```
In this PR we add a Lemma showing that `ofDerivation` is in fact `A`-linear, and that the resulting LieDerivation satisfies a Leibniz rule with respect to the `A`-multiplication on `A ⊗[R] L`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Derivation/BaseChange.lean [hunk 1]
```diff
@@ -60,6 +60,19 @@ lemma ofDerivation_apply (d : Derivation R A A) (x : A ⊗[R] L) :
     ofDerivation L d x = d.toLinearMap.rTensor L x :=
   rfl
 
+lemma ofDerivation_leibniz (d : Derivation R A A) (a : A) (x : A ⊗[R] L) :
+    ofDerivation L d (a • x) = a • ofDerivation L d x + (d a) • x := by
+  refine x.induction_on (by simp) (fun _ _ ↦ ?_) (fun _ _ h1 h2 ↦ ?_)
+  · simp [TensorProduct.smul_tmul', add_tmul, mul_comm]
+  · simp_rw [smul_add, map_add, h1, h2, smul_add]
+    abel_nf
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Derivation/BaseChange.lean]: Here's perhaps a slicker proof:
```suggestion
lemma ofDerivation_comp_leibniz (d : Derivation R A A) (a : A) :
    (ofDerivation L d).toLinearMap ∘ₗ DistribSMul.toLinearMap _ _ a =
      a • (ofDerivation L d).toLinearMap + DistribSMul.toLinearMap _ _ (d a) := by
  ext
  simp [smul_tmul', add_tmul, mul_comm]
  
lemma ofDerivation_leibniz (d : Derivation R A A) (a : A) (x : A ⊗[R] L) :
    ofDerivation L d (a • x) = a • ofDerivation L d x + (d a) • x :=
  DFunLike.congr_fun (ofDerivation_comp_smul d a) x
```
